US06436904B1
Synthesis of (2S)-2-[5-(N-(Toluene-4-sulfonyl)pyrrolidin-2-yl)tetrazol-1-yl]-2-(4-nitrobenzyl)propionic Acid
N-(Toluene-4-sulfonyl-L-prolyl-(4-nitro)phenylalanine methyl ester was mixed with an equimolar amount of PCl5 in dry benzene and stirred for 90 minutes. The yellow solution was treated with a solution of hydrazoic acid in benzene and the mixture was stirred at room temperature for 2 hours, then it was diluted with benzene and washed with satd. NaHCO3 and brine. The organic layer was dried and evaporated to give a light yellow foam. The title compound was prepared from the product of the last reaction using standard basic hydrolysis techniques, yielding an off-white fluffy solid, mp 150-160° C.

reactant | Toluene-4-sulfonyl-L-prolyl-(4-nitro)phenylalanine methyl ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H25N3O7S
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | benzene | C1=CC=CC=C1 | C6H6
product | (2S)-2-[5-(N-(Toluene-4-sulfonyl)pyrrolidin-2-yl)tetrazol-1-yl]-2-(4-nitrobenzyl)propionic Acid | C1(=CC=C(C=C1)S(=O)(=O)N1C(CCC1)C1=NN=NN1[C@@](C(=O)O)(C)CC1=CC=C(C=C1)[N+](=O)[O-])C | C22H24N6O6S
